US07405233B2
A solution of methyl-2-(4-isopropylanilino)acetate (1.10 g, 5.31 mmol) in toluene (30 mL) was treated with methyl 3-isocyanatobenzoate (1.03 g), and the resulting solution was stirred at ambient temperature for 20 h. The reaction mixture was evaporated, and a portion (0.6 g) of the resulting solid material used directly in the next step. The compound was dissolved in methanol, and treated with sodium methoxide (0.84 mL of 0.5 M in methanol). The resulting solution was stirred for 1 h, then evaporated and partitioned between water and ethyl acetate (50 mL each). The organic extract was washed with brine, dried over magnesium sulfate, filtered and evaporated. The residual material was separated by preparative thin-layer chromatography (silica gel, 30:70 ethyl acetate-hexane) to afford pure product, methyl-3-[3-(4-isopropylphenyl)-2,5-DIOXO-imidazolidin-1-yl]-benzoate, as a waxy solid. 1H NMR (CDCl3, 300 MHz): δ 8.16 (1H, t, J=1.8 Hz), 8.07 (1H, dt, J=7.6, 1.5 Hz), 7.67 (1H, ddd, J=8.0, 2.0, 1.1 Hz), 7.56 (1H, t, J=7.9 Hz), 7.51 (2H, d, J=8.8 Hz), 7.27 (2H, d, J=8.8 Hz), 4.47 (2H, s), 3.92 (3H, s), 2.91 (1H, m, J=7.0 Hz), 1.25 (6H, d, J=7.0 Hz). Mass spectrum (ES+): m/z 353 (36), 321 (100).

reactant | methyl-2-(4-isopropylanilino)acetate | 5.31 mmol, 1.10 g | COC(CNC1=CC=C(C=C1)C(C)C)=O | C12H17NO2
reactant | methyl 3-isocyanatobenzoate | 1.03 g | N(=C=O)C=1C=C(C(=O)OC)C=CC1 | C9H7NO3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | methyl-3-[3-(4-isopropylphenyl)-2,5-DIOXO-imidazolidin-1-yl]-benzoate | COC(C1=CC(=CC=C1)N1C(N(CC1=O)C1=CC=C(C=C1)C(C)C)=O)=O | C20H20N2O4
